US07635699B2
A suspension of 2-amino-1H-imidazole-4-sulfonic acid (82 mg, 0.5 mmol) and 2-(2,4-dichlorobenzylidene)-3-oxobutanamide (125 mg, 0.5 mmol) in 3:1 EtOH/H2O (2 mL) was heated to 80° C. for 14 h. After removal of solvent, the residue was dissolved in 1N NaOH and extracted with EtOAc (5 mL×2). The aqueous solution was then acidified with conc. HCl to pH=1. The precipitation which had formed was collected and further washed with H2O. After drying in vacuo, 6-carbamoyl-5-(2,4-dichlorophenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-2-sulfonic acid was obtained a yellow solid (97 mg, 48%).

reactant | 2-amino-1H-imidazole-4-sulfonic acid | 0.5 mmol, 82 mg | NC=1NC=C(N1)S(=O)(=O)O | C3H5N3O3S
reactant | 2-(2,4-dichlorobenzylidene)-3-oxobutanamide | 0.5 mmol, 125 mg | ClC1=C(C=C(C(=O)N)C(C)=O)C=CC(=C1)Cl | C11H9Cl2NO2
solvent | EtOH H2O | 2 mL | CCO.O
product | 6-carbamoyl-5-(2,4-dichlorophenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-2-sulfonic acid | C(N)(=O)C1=C(NC=2N(C1C1=C(C=C(C=C1)Cl)Cl)C=C(N2)S(=O)(=O)O)C | C14H12Cl2N4O4S
